US08227500B2
4-(3-Cyano-4-phenylpyrrole-1-yl)-2-methanesulfonylamino-benzoic acid ethyl ester
To a solution of 2-amino-4-(3-cyano-4-phenylpyrrole-1-yl)benzoic acid ethyl ester (0.050 g) and triethylamine (0.046 g) in dichloromethane (2 mL) was added methane sulfonylchloride (0.043 g) under ice-cooling, and this mixture was stirred at room temperature for 3 days. This reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=75/25) to give the title compound (0.015 g).

reactant | 2-amino-4-(3-cyano-4-phenylpyrrole-1-yl)benzoic acid ethyl ester | 0.050 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C(=C1)C1=CC=CC=C1)C#N)N)=O | C20H17N3O2
reactant | triethylamine | 0.046 g | C(C)N(CC)CC | C6H15N
reactant | methane sulfonylchloride | 0.043 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(3-Cyano-4-phenylpyrrole-1-yl)-2-methanesulfonylamino-benzoic acid ethyl ester | 0.015 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C(=C1)C1=CC=CC=C1)C#N)NS(=O)(=O)C)=O | C21H19N3O4S
